US09328118B2
Potassium carbonate (62 mg), potassium iodide (25 mg), and 2-chloro-N,N-dimethylacetamide (18 μL) were added to a mixture of 4-{4-[2-(piperidin-4-yl)ethoxy]-3-(trifluoromethyl)phenyl}-7-(tetrahydrofuran-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile monohydrochloride (80 mg) and acetonitrile (3.2 mL) at room temperature, and the mixture was stirred at 60° C. for 2 hours. After the reaction mixture was cooled to room temperature, the reaction mixture was diluted with EtOAc. Then, a saturated aqueous NaHCO3 solution and water were added thereto, then extraction thereof was performed using EtOAc, and the extract was washed with saturated brine. The organic layer was dried over Na2SO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (Hex:CHCl3=50:50 to 0:100). The obtained product was dissolved in EtOAc (1 mL), then a 4 M solution of hydrogen chloride in EtOAc (37 μL) was added thereto at room temperature, and the mixture was stirred at the same temperature for 1 hour. The precipitate was collected by filtration, whereby 2-[4-(2-{4-[2-cyano-7-(tetrahydrofuran-2-yl methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-2-(trifluoromethyl)phenoxy}ethyl)piperidin-1-yl]-N,N-dimethylacetamide monohydrochloride (57 mg) was obtained as a pale yellow solid.

reactant | Potassium carbonate | 62 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 25 mg | [I-].[K+]
reactant | 2-chloro-N,N-dimethylacetamide | 18 μL | ClCC(=O)N(C)C | C4H8ClNO
reactant | 4-{4-[2-(piperidin-4-yl)ethoxy]-3-(trifluoromethyl)phenyl}-7-(tetrahydrofuran-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile monohydrochloride | 80 mg | Cl.N1CCC(CC1)CCOC1=C(C=C(C=C1)C=1C2=C(N=C(N1)C#N)N(C=C2)CC2OCCC2)C(F)(F)F
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | acetonitrile | 3.2 mL | C(C)#N | C2H3N
product | 2-[4-(2-{4-[2-cyano-7-(tetrahydrofuran-2-yl methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-2-(trifluoromethyl)phenoxy}ethyl)piperidin-1-yl]-N,N-dimethylacetamide monohydrochloride | 57 mg | Cl.C(#N)C=1N=C(C2=C(N1)N(C=C2)CC2OCCC2)C2=CC(=C(OCCC1CCN(CC1)CC(=O)N(C)C)C=C2)C(F)(F)F | InChI=1S/C30H35F3N6O3.ClH/c1-37(2)27(40)19-38-11-7-20(8-12-38)10-15-42-25-6-5-21(16-24(25)30(31,32)33)28-23-9-13-39(18-22-4-3-14-41-22)29(23)36-26(17-34)35-28;/h5-6,9,13,16,20,22H,3-4,7-8,10-12,14-15,18-19H2,1-2H3;1H
